US08487093B2
Step 1: 2-Allyl 1-tert-butyl (2S,4S)-4-hydroxypyrrolidine-1,2-dicarboxylate
Di-tert-butyl dicarbonate (0.532 mL, 2.291 mmol) was added to a solution of cis-4-hydroxy-L-proline (265 mg, 2.02 mmol) in DMF (5 mL) and aqueous sodium hydroxide (2 mL, 2 mmol). The reaction mixture was stirred at room temperature overnight. Allyl bromide (0.18 mL, 2.08 mmol) was added and the resulting mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with dilute aqueous HCl, water, saturated sodium bicarbonate and brine, dried over magnesium sulfate, filtered and concentrated under vacuum to afford the title compound as a clear oil.

reactant | Di-tert-butyl dicarbonate | 2.291 mmol, 0.532 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | cis-4-hydroxy-L-proline | 2.02 mmol, 265 mg | O[C@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | sodium hydroxide | 2 mmol, 2 mL | [OH-].[Na+]
reactant | Allyl bromide | 2.08 mmol, 0.18 mL | C(C=C)Br | C3H5Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Allyl 1-tert-butyl (2S,4S)-4-hydroxypyrrolidine-1,2-dicarboxylate | O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C13H21NO5
